US07368578B2
To a solution of 3-(methylamino)-1-phenyl-1H-pyrazole-4-carbaldehyde (150 mg) in N,N-dimethylformamide (5 mL) was added sodium hydride (60% in oil, 36 mg) on an ice bath, and the mixture was stirred for 30 min. To the reaction mixture was added 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole (227 mg), and the mixture was further stirred at room temperature for 1 hr. Ice water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to flash silica gel column chromatography and eluted with ethyl acetate-hexane (1:9 to 6:4, v/v) to give 3-([4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl](methyl)amino)-1-phenyl-1H-pyrazole-4-carbaldehyde as colorless crystals (170.4 mg, yield 46%). melting point: 101-102° C.

reactant | 3-(methylamino)-1-phenyl-1H-pyrazole-4-carbaldehyde | 150 mg | CNC1=NN(C=C1C=O)C1=CC=CC=C1 | C11H11N3O
reactant | sodium hydride | 36 mg | [H-].[Na+]
reactant | 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole | 227 mg | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C17H16ClNO4
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-([4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl](methyl)amino)-1-phenyl-1H-pyrazole-4-carbaldehyde | 170.4 mg, yield 46% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(CN(C2=NN(C=C2C=O)C2=CC=CC=C2)C)C=C1)OC)C | C28H26N4O5
